US08735379B2
To a solution of butane 2,3-diol (15 g, 0.166 mol) and Et3N (57.7 mL, 0.415 mol) in CH2Cl2 (150 mL) at 0° C. was slowly added a solution of CH3SO2Cl (32.1 mL, 0.415 mol) in CH2Cl2 (75 mL). The mixture was stirred at 0° C. for 2 h and diluted with CH2Cl2. The mixture was washed with water, 1 N HCl, 5% aqueous NaHCO3 and brine. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to afford butane-2,3-diyl dimethanesulfonate (40 g, 98%) as a light yellow oil. 1HNMR (CDCl3): δ4.9 (m, 2H, CH), 3.05 (s, 6H, CH3), 1.4 (m, 6H, CH3).

reactant | butane 2,3-diol | 0.166 mol, 15 g | CC(C(C)O)O | C4H10O2
reactant | Et3N | 0.415 mol, 57.7 mL | CCN(CC)CC | C6H15N
reactant | CH3SO2Cl | 0.415 mol, 32.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | butane-2,3-diyl dimethanesulfonate | 40 g, 98% | CS(=O)(=O)OC(C)C(C)OS(=O)(=O)C | C6H14O6S2
